US20010012596A1
2.a 1,3-Dimethyl-5-methylsulfanyl-benzene
10.0 g (0.072 mol) of 3,5-dimethylbenzenethiol, 9.95 g (0.072 mol) of potassium carbonate and 0.46 g (1.4 mmol) of tetrabutylammonium bromide are suspended in 20 ml of dimethylsulfoxide under argon. Iodomethane (10.2 g, 0.072 mol) is added dropwise, and the mixture is stirred 16 h at ambient temperature. After pouring the mixture into water, the product is extracted with ether, washed with water, dried over sodium sulfate and concentrated in vacuo. The crude product 9.6 g (0.063 mol; 88%) is obtained as a slightly yellow oil, and is used for the next step without further purification.

reactant | 3,5-dimethylbenzenethiol | 0.072 mol, 10.0 g | CC=1C=C(C=C(C1)C)S | C8H10S
reactant | potassium carbonate | 0.072 mol, 9.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 0.072 mol, 10.2 g | IC | CH3I
reactant | water | O | H2O
catalyst | tetrabutylammonium bromide | 1.4 mmol, 0.46 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 1,3-Dimethyl-5-methylsulfanyl-benzene | 0.063 mol, 9.6 g, 88% | CC1=CC(=CC(=C1)SC)C | C9H12S
